Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[O:11][H:12],4.3126596922300005
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13],-4.3177713972500005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.57063210808
[H:1][O:2][C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.64538823034
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.971858537719999
[O:1]=[C:2]=[C:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[O:1],7.1727077762
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.89426441701
[C:3]([H:4])([H:5])=[C:6][H:7].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],1.42017030369
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],4.23774861833
[H:1][C:2]=[C:3]1[O:4][C:5]=[C:6]([H:7])[O:8]1>>[H:1][C:2]#[C:3][O:8][C:6](=[C:5]=[O:4])[H:7],-2.03948158742
[O:1][C:2]([H:3])([H:4])[C:5]#[C:9][C:6][O:7][H:8]>>[O:1][C:2]([H:3])([H:4])[C:5]1=[C:6]([O:7][H:8])[C:9]1,-0.6459978143990001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],1.91181184281
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9],4.92555603518
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],0.5950532120009999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.91300304782
[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-7.95267994536
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.982913329179
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6],4.36064795809
[C:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9]>>[C:1].[C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9],6.26578734284
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([C:3])([H:6])[H:7],4.64745064588
[O:1]=[C:2]([H:3])[C:12]([H:13])([H:14])[H:15].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C@@:2]([H:3])([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.6912196404690001
[C:7]([H:8])([H:9])([C:10])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.11198240125
[C:2](=[C:3]=[O:4])([H:6])[H:7].[O:1]=[C:5]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])[H:7],0.883322210309
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])=[O:10]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.60118624783
[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])=[C:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.83158346625
[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[O:10])=[C:11]([H:12])[H:13],-0.164886910039
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],2.12238409138
[H:12].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.3436180387
